US08426598B2
Ethyl 1-[4-(4-cyano-1H-pyrazol-1-yl)benzyl]-5-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To a solution of ethyl 5-fluoro-1-[4-(4-iodo-1H-pyrazol-1-yl)benzyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate (0.100 g, 0.193 mmol), potassium cyanide (0.038 g, 0.52 mmol), and tributyltin chloride (0.68 mg, 1.9 μmol) in 2 mL of acetonitrile under nitrogen was added bis(tri-tert-butylphosphoranyl)palladium (10 mol %). The reaction mixture was stirred at 120° C. for 48 hours, cooled to room temperature, and purified via reverse phase HPLC to provide the title compound which gave a proton NMR spectrum consistent with theory. This compound could be further hydrolyzed to the corresponding carboxylic acid, as described in Example 1.

reactant | ethyl 5-fluoro-1-[4-(4-iodo-1H-pyrazol-1-yl)benzyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.193 mmol, 0.100 g | FC1=C2C(C(=CN(C2=CC=C1)CC1=CC=C(C=C1)N1N=CC(=C1)I)C(=O)OCC)=O | C22H17FIN3O3
reactant | potassium cyanide | 0.52 mmol, 0.038 g | [C-]#N.[K+]
reactant | tributyltin chloride | 1.9 μmol, 0.68 mg | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | bis(tri-tert-butylphosphoranyl)palladium | C(C)(C)(C)P(C(C)(C)C)(C(C)(C)C)[Pd]P(C(C)(C)C)(C(C)(C)C)C(C)(C)C
product | Ethyl 1-[4-(4-cyano-1H-pyrazol-1-yl)benzyl]-5-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | C(#N)C=1C=NN(C1)C1=CC=C(CN2C=C(C(C3=C(C=CC=C23)F)=O)C(=O)OCC)C=C1 | C23H17FN4O3
